US06960586B2
Production of 7-bromo-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one
7-Bromo-1-hydroxy-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one (1.03 g) was dissolved in acetic acid (25 ml) and zinc (3.0 g) was added. The mixture was stirred with heating at 100° C. for 3 hrs. The reaction mixture was filtered through celite and the filtrate was concentrated. The obtained residue was diluted with saturated aqueous sodium hydrogen carbonate and extracted with ethyl acetate. The extracted layer was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography (carrier: silica gel, developing solvent: hexane-ethyl acetate, 2:1-1:1). The obtained crystals were washed with diisopropyl ether to give the title compound (0.84 g) as colorless crystals.

reactant | 7-Bromo-1-hydroxy-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 1.03 g | BrC1=CC2=C(C=3C(N(C(C3C=C2)=O)C)O)C=C1 | C13H10BrNO2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 3.0 g | [Zn] | Zn
product | 7-bromo-2-methyl-1,2-dihydro-3H-benzo[e]isoindol-3-one | 0.84 g | BrC1=CC2=C(C=3CN(C(C3C=C2)=O)C)C=C1 | C13H10BrNO
